US05217961
3-Methylanthranilic acid 10 g (0.07 mol) was dissolved in dried benzene 100 ml. To this solution, chloroacetylchloride 5.81 ml (0.07 mol) was added dropwise at room temperature and heated under reflux for two hours. After cooling, deposited crystals were collected by filtration and recrystallized from benzene-toluene to obtain 3-methyl-N(chloroacetyl)anthranilic acid 11.7 g (yield: 79%).

reactant | 3-Methylanthranilic acid | 0.07 mol, 10 g | CC1=C(C(C(=O)O)=CC=C1)N | C8H9NO2
reactant | chloroacetylchloride | 0.07 mol, 5.81 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-N(chloroacetyl)anthranilic acid | 11.7 g, yield: 79% | CC1=C(C(C(=O)O)=CC=C1)NC(CCl)=O | C10H10ClNO3
